US08257943B2
N-[2-(Acetylamino)propionyl]phenylalanine obtained in Experimental Example 21 (10 mg, 0.036 mmol) is suspended in N,N-dimethylformamide (5 ml), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (14 mg, 0.073 mmol), 1-hydroxybenzotriazole (15 mg, 0.11 mmol) and piperidine (40 μl, 0.40 mmol) are added to the suspension at room temperature, followed by stirring at 50° C. Fog 24 hours. To the reaction mixture is added water, and the resulting mixture is extracted three times with chloroform. The organic layer is washed with 10% hydrochloric acid and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After the solvent is distilled away under reduced pressure, the residue is purified by silica gel column chromatography to obtain 1-{2-[N-(2-(acetylamino)propionyl)amino]-3-phenylpropionyl}piperidine.

reactant | N-[2-(Acetylamino)propionyl]phenylalanine | C(C)(=O)NC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C14H18N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.073 mmol, 14 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.11 mmol, 15 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | piperidine | 0.40 mmol, 40 μl | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-{2-[N-(2-(acetylamino)propionyl)amino]-3-phenylpropionyl}piperidine | C(C)(=O)NC(C(=O)NC(C(=O)N1CCCCC1)CC1=CC=CC=C1)C | C19H27N3O3
